US06111115
Preparation (III) of 2-(3-carboxymethyl-4-phenylthiophenyl)propionic acid
0.3 M Aqueous potassium hydroxide solution (10 mL, oxygen was removed by addition of 20 mg of sodium hydrosulfite in advance) was mixed with 2-(3-carboxymethyl-4-iodophenyl)propionic acid (prepared in the manner as described in Example 12, 203 mg, 0.607 mmol.) and thiophenol (95 wt. %, 94 mg, 0.81 mmol.). The resulting mixture was heated for 19 hours under reflux (temperature: approx. 100° C.) after addition of 20 mg of powdery copper. The reaction mixture was cooled, made acidic by addition of hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate portion was extracted with an aqueous saturated sodium hydrogen carbonate solution. The aqueous portion was washed with ethyl acetate, made acidic by addition of hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate portion was washed with an aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated to leave a residue. The residue was subjected to silica gel column chromatography (Wako Gel C-200, Wako Jyunyaku Industry Co., Ltd., hexane/ethyl acetate/acetic acid=7/3/1, v/v/v) to obtain 133 mg (0.420 mmol., yield: 69%) of the desired compound.

reactant | potassium hydroxide | 0.3 M, 10 mL, 20 mg | [OH-].[K+]
reactant | 2-(3-carboxymethyl-4-iodophenyl)propionic acid | C(=O)(O)CC=1C=C(C=CC1I)C(C(=O)O)C | C11H11IO4
reactant | thiophenol | 0.81 mmol, 94 mg | C1(=CC=CC=C1)S | C6H6S
reactant | hydrochloric acid | Cl | ClH
catalyst | copper | 20 mg | [Cu] | Cu
solvent | hexane ethyl acetate acetic acid | CCCCCC.C(C)(=O)OCC.C(C)(=O)O
product | 2-(3-carboxymethyl-4-phenylthiophenyl)propionic acid | yield: 69% | C(=O)(O)CC=1C=C(C=CC1SC1=CC=CC=C1)C(C(=O)O)C | C17H16O4S
